US09108969B2
Step A: Preparation of tert-Butyl 2-(7-(3-Cyano-4-isopropoxybenzyloxy)-9-iodo-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate
tert-Butyl 2-(7-(3-cyano-4-isopropoxybenzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (0.576 g, 1.251 mmol) was dissolved in DCM (12.51 mL). The reaction mixture was cooled to 0° C., and NIS (0.295 g, 1.313 mmol) was added while stirring. After stirring at 0° C. for 50 min, the reaction mixture was diluted with MTBE (60 mL), washed with water (2×20 mL), 2 M sodium thiosulfate (2×12.5 mL), brine (10 mL), and dried over MgSO4. The solvent was evaporated in vacuo to give the title compound as a light-yellow solid (0.723 g) without further purification. LCMS m/z=587.4 [M+H]+; 1H NMR (400 MHz, CD3CN) δ ppm 1.36 (d, J=6.06 Hz, 6H), 1.40 (s, 9H), 2.34-2.45 (m, 1H), 2.52 (dd, J=15.92, 9.85 Hz, 1H), 2.87 (dt, J=18.60, 8.45 Hz, 1H), 2.99 (dd, J=15.92, 3.54 Hz, 1H), 3.57-3.65 (m, 1H), 4.05 (m, 1H), 4.17 (m, 1H), 4.75 (dt, J=12.13, 6.06 Hz, 1H), 5.06 (s, 2H), 6.83-6.85 (m, 1H), 6.85-6.89 (m, 1H), 7.14 (d, J=8.72 Hz, 1H), 7.19 (d, J=8.72 Hz, 1H), 7.67 (dd, J=8.72, 2.15 Hz, 1H), 7.70 (d, J=2.15 Hz, 1H).

reactant | tert-Butyl 2-(7-(3-cyano-4-isopropoxybenzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 1.251 mmol, 0.576 g | C(#N)C=1C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)C=CC1OC(C)C | C28H32N2O4
reactant | NIS | 1.313 mmol, 0.295 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | DCM | 12.51 mL | C(Cl)Cl | CH2Cl2
solvent | MTBE | 60 mL | CC(C)(C)OC | C5H12O
product | tert-Butyl 2-(7-(3-Cyano-4-isopropoxybenzyloxy)-9-iodo-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.723 g | C(#N)C=1C=C(COC2=CC=3C(=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)I)C=CC1OC(C)C | C28H31IN2O4
